US03992421
Blue anthraquinone dyestuffs are prepared from the reaction of 6-chloro-1,4,5-trihydroxyanthraquinone with an appropriate aniline reactant. The resultant blue dyestuffs are 6-anilino-1,4,5-trihydroxyanthraquinones which produce excellent blue dyeings on polyester fabrics, particularly polyethylene terephthalate.

reactant | 6-chloro-1,4,5-trihydroxyanthraquinone | ClC=1C(=C2C(C=3C(=CC=C(C3C(C2=CC1)=O)O)O)=O)O | C14H7ClO5
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
